US05679661
Preparation of 1,4-Dipropoxy-2,3-dicyanobenzene
Propyl iodide (15 mL, 0.16 mol) and anhydrous potassium carbonate (24 g, 0.17 mol) are combined with to a solution of 2,3-dicyanohydroquinone (3.0 g, 0.019 mol) in 100 mL of 2-butanone. The reaction mixture is refluxed for 18 hr. under a stream of argon, cooled to room temperature and the solid collected by filtration. The residue is then added to water (100 mL) to dissolve the potassium carbonate and the resulting solid is collected by filtration and dried under vacuum to yield 3.4 g (74%).

reactant | Propyl iodide | 0.16 mol, 15 mL | C(CC)I | C3H7I
reactant | potassium carbonate | 0.17 mol, 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dicyanohydroquinone | 0.019 mol, 3.0 g | C(#N)C1=C(O)C=CC(=C1C#N)O | C8H4N2O2
reactant | 2-butanone | 100 mL | CC(CC)=O | C4H8O
product | 1,4-Dipropoxy-2,3-dicyanobenzene | C(CC)OC1=C(C(=C(C=C1)OCCC)C#N)C#N | C14H16N2O2
